US07217722B2
N-(1-Benzyltetrahydro-1H-pyrrolyl)-N-(1H-5-indazolyl)amine
1-Benzyl-3-pyrrolidinone (105 mg), 5-aminoindazole (67 mg), and acetic acid (0.02 ml) were dissolved in methanol (1 ml), and a borane-pyridine complex (0.06 ml) was added dropwise to the solution at room temperature. The reaction mixture was stirred at room temperature for 18 hr. A saturated aqueous sodium hydrogencarbonate solution (1 ml) was then added thereto, and the mixture was extracted with chloroform-propanol (3/1). The organic layer was dried over anhydrous sodium sulfate, and the solvent was removed by distillation under the reduced pressure. The residue was purified by HPLC [chloroform/methanol] to give the title compound (49 mg, yield 34%).

reactant | 1-Benzyl-3-pyrrolidinone | 105 mg | C(C1=CC=CC=C1)N1CC(CC1)=O | C11H13NO
reactant | 5-aminoindazole | 67 mg | NC=1C=C2C=NNC2=CC1 | C7H7N3
reactant | acetic acid | 0.02 ml | C(C)(=O)O | C2H4O2
reactant | sodium hydrogencarbonate | 1 ml | C(O)([O-])=O.[Na+]
solvent | methanol | 1 ml | CO | CH4O
product | N-(1-Benzyltetrahydro-1H-pyrrolyl)-N-(1H-5-indazolyl)amine | 49 mg, yield 34% | C(C1=CC=CC=C1)N1C(CCC1)NC=1C=C2C=NNC2=CC1 | C18H20N4
